US04533731
To 50 ml of dioxane were added 5.0 g of 3-aminoindazole thus obtained and 6.68 g of phthalic anhydride, and the mixture was stirred for 5 hours at 120° C. After the mixture was condensed under reduced pressure, the condensed residue was added with 30 ml of diethyl ether and stirred under cooling with ice and water for 30 minutes to separate crystals. Then the crystals were obtained by filtration and dried under reduced pressure to give 8.6 g of 3-phthalimidoindazole having the following analytical values in a yield of 87%.

reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
reactant | 3-aminoindazole | 5.0 g | NC1=NNC2=CC=CC=C12 | C7H7N3
reactant | phthalic anhydride | 6.68 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 3-phthalimidoindazole | 8.6 g, yield of 87% | C1(C=2C(C(N1C1=NNC3=CC=CC=C13)=O)=CC=CC2)=O | C15H9N3O2
